US08609710B2
Hydroxylamine hydrochloride (8.76 g) was dissolved in water (100 mL). To the solution, a solution of sodium acetate (17.8 g) and 3,3-dimethylcyclohexanone (4.55 g) in methanol (20 mL) was added at room temperature, and the mixture was heated to reflux for 1.5 hours. Organic matter was extracted with ethyl acetate and dried over anhydrous sodium sulfate, and the solvent was then distilled off under reduced pressure to obtain a crude product of 3,3-dimethylcyclohexanone oxime.

reactant | Hydroxylamine hydrochloride | 8.76 g | Cl.NO
reactant | sodium acetate | 17.8 g | C(C)(=O)[O-].[Na+]
reactant | 3,3-dimethylcyclohexanone | 4.55 g | CC1(CC(CCC1)=O)C | C8H14O
solvent | water | 100 mL | O | H2O
solvent | methanol | 20 mL | CO | CH4O
product | 3,3-dimethylcyclohexanone oxime | CC1(CC(CCC1)=NO)C | C8H15NO
